US05463063
A stirred mixture of N-phthaloyl-L-glutamine (48.0 g, 174 mmoL), carbonyldiimidazole (30.43 g, 188 mmoL), and 4-dimethylaminopyridine (0.105 g, 0.861 mmoL) in anhydrous tetrahydrofuran (300 mL) is heated to reflux for 16 hours. The reaction slurry is filtered and the solid washed with methylene chloride (200 mL). The solid is air-dried and then dried in vacuo (60° C., <1 mm) to afford 40.40 g (90%) of thalidomide as a white powder. 1H NMR (DMSO-d6) δ 11.16 (s, 1 H, NH), 8.05-7.80 (br s, 4 H, Ar), 5.18 (dd, 1 H, J=12, 5 Hz, CHCO), 3.05-2.85 (m, 1 H, CH2CO), 2,70-2.45 (m, 2 H, CH2CH2), 2.15-2.00 (M, 1 H, CH2). 13C NMR (DMSO-d6) δ 172.8, 169.8, 167.1, 134.9, 131.2, 123.4, 49.0, 30.9, 22.0.

reactant | N-phthaloyl-L-glutamine | 48.0 g | C1=CC=C2C(=C1)C(=O)N(C2=O)[C@@H](CCC(=O)N)C(=O)O | C13H12N2O5
reactant | carbonyldiimidazole | 30.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
catalyst | 4-dimethylaminopyridine | 0.105 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | thalidomide | 40.40 g, 90% | C=1C=CC2=C(C1)C(=O)N(C2=O)C3CCC(=O)NC3=O | C13H10N2O4
